US04221794
9-HYDROXYETHYL HYPOXANTHINE (NPT 15425)
6-Chloro-9-hydroxyethyl purine, III (4 g), was added slowly to warm N NaOH (30 ml) and refluxed for 2 hr. The reaction is cooled in ice and neutralized with glacial acetic acid. After filtration, portions of unreacted III are removed. The product is recrystallized from methanol and washed with acetone. Colorless crystals. Yield, 1 g. (28%); mp. 274°; uv (H2O, pH 5.5), λmax 250 nm.

reactant | 6-Chloro-9-hydroxyethyl purine | ClC1=C2N=CN(C2=NC=N1)CCO | C7H7ClN4O
reactant | NaOH | 30 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 9-HYDROXYETHYL HYPOXANTHINE | OCCN1C=2N=CNC(C2N=C1)=O | C7H8N4O2
